US08975400B2
tert-butyl 7-((3-chloro-4-(3,4-difluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo-[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from sodium hydride, (3-chloro-4-(3,4-difluorophenoxy)phenyl)methanol and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | sodium hydride | [H-].[Na+]
reactant | (3-chloro-4-(3,4-difluorophenoxy)phenyl)methanol | ClC=1C=C(C=CC1OC1=CC(=C(C=C1)F)F)CO | C13H9ClF2O2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl 7-((3-chloro-4-(3,4-difluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo-[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=C(C=C1)F)F | C24H22ClF2N3O5
